US07745641B2
Indole-5-carboxylic acid (4.09 g, 25.4 mmol) was dissolved in DMF (200 mL), and the solution was added with EDCI (9.74 g, 50.8 mmol) and HOBT monohydrate (1.95 g, 12.7 mmol) under ice-cooling, followed by stirring at the same temperature for 10 minutes. Then, the reaction mixture was added with N-methylpiperazine (8.45 mL, 76.2 mmol), followed by stirring at room temperature for 3.7 hours. The reaction mixture was added with water and extracted with ethyl acetate and chloroform. The organic layer was washed with saturated brine and was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by flash column chromatography (chloroform/methanol=100/0, 90/10) to obtain 5-(4-methylpiperazin-1-ylcarbonyl)indole (5.81 g, yield 94%).

reactant | Indole-5-carboxylic acid | 25.4 mmol, 4.09 g | N1C=CC2=CC(=CC=C12)C(=O)O | C9H7NO2
reactant | EDCI | 50.8 mmol, 9.74 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT monohydrate | 12.7 mmol, 1.95 g | C1=CC=C2C(=C1)N=NN2O.O
reactant | N-methylpiperazine | 76.2 mmol, 8.45 mL | CN1CCNCC1 | C5H12N2
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-(4-methylpiperazin-1-ylcarbonyl)indole | 5.81 g, yield 94% | CN1CCN(CC1)C(=O)C=1C=C2C=CNC2=CC1 | C14H17N3O
